US05650533
A mixture of 1-cyclopropylbutan-1,3-dione (65.3 g), hydroxylamine hydrochloride (36.6 g) and anhydrous potassium carbonate (71.8 g) in ethanol (375 ml) was stirred and heated at reflux for 2 hours. The mixture was cooled and filtered and the filtrate was evaporated to dryness. The residue was distilled under reduced pressure to give 5-cyclopropyl-3-methyl isoxazole containing approximately 20% 3-cyclopropyl-5-methylisoxazole (51.85 g) as a clear oil, b.p. 74° C./12 mm.Hg.

reactant | 1-cyclopropylbutan-1,3-dione | 65.3 g | C1(CC1)C(CC(C)=O)=O | C7H10O2
reactant | hydroxylamine hydrochloride | 36.6 g | Cl.NO
reactant | potassium carbonate | 71.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 375 ml | C(C)O | C2H6O
product | 5-cyclopropyl-3-methyl isoxazole | 51.85 g, approximately 20% | C1(CC1)C1=CC(=NO1)C | C7H9NO
